US07129232B2
To a suspension of 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoic acid (600 mg) and tert-butyl (2-aminoethyl)carbamate (240 mg) in tetrahydrofuran (12 ml) and dichloromethane (6 ml) was added WSCD HCl (522 mg), and the whole mixture was stirred at room temperature overnight. To the reaction mixture was added water (3 ml), and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over magnesium sulfate. The evaporation of the solvent gave a crude residue, which was triturated with diisopropyl ether-ethyl acetate (2:1) to give tert-butyl {2-[(3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoyl)amino]ethyl}carbamate (537 mg).

reactant | 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoic acid | 600 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC(=O)O)=O | C26H24N4O3
reactant | tert-butyl (2-aminoethyl)carbamate | 240 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | WSCD HCl | 522 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | tert-butyl {2-[(3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoyl)amino]ethyl}carbamate | 537 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC(=O)NCCNC(OC(C)(C)C)=O)=O | C33H38N6O4
